US05162312
j) 11beta-(4-formylphenyl)-17beta-methoxy-16alpha,17alpha-methylene-estra-4,9-dien-3-one
0.6 g of 11beta-(4-(diethoxymethyl)-phenyl)-3,3-ethylenedioxy-17beta-methoxy-16alpha,17alpha-methylene-estr-9-en-5alpha-ol is dissolved in 10 ml of 70% aqueous acetic acid and heated on the water bath for about 2 hours at 70° C. Then, the steroid is precipitated by adding water and some ammonia. The isolated crude product is flash chromatographed with benzene/ethyl acetate (10:1) on neutral aluminum oxide. 0.41 g of the target compound, which can be crystallized from ether or acetonitrile, is obtained, melting point: 196° C. to 199.5° C., [α]D =315.9°.

reactant | 11beta-(4-(diethoxymethyl)-phenyl)-3,3-ethylenedioxy-17beta-methoxy-16alpha,17alpha-methylene-estr-9-en-5alpha-ol | 0.6 g | C(C)OC(C1=CC=C(C=C1)[C@@H]1C2=C3CCC4(C[C@@]3(CC[C@H]2[C@@H]2C[C@@H]3[C@]([C@@]2(C)C1)(C3)OC)O)OCCO4)OCC | C33H46O6
reactant | water | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 11beta-(4-formylphenyl)-17beta-methoxy-16alpha,17alpha-methylene-estra-4,9-dien-3-one | C(=O)C1=CC=C(C=C1)[C@@H]1C2=C3CCC(C=C3CC[C@H]2[C@@H]2C[C@@H]3[C@]([C@@]2(C)C1)(C3)OC)=O | C27H30O3
